US07214824B2
31(a): tert-Butyl 4-tert-butyl-3-(2-methoxyethoxy)phenyl carbonate
To a tetrahydrofuran (THF) (3 ml) solution of tert-butyl 4-tert-butyl-3-hydroxyphenyl carbonate (J. Org. Chem. 2001, 66, 3435) (266 mg, 1.0 mmol), 2-methoxy-ethanol (83 μL, 1.1 mmol) and triphenylphosphine (275 mg, 1.1 mmol) were added diethyl azodicarboxylate (DEAD) (165 μl, 1.1 mmol) and the mixture was stirred for 3 hours at 50° C. The solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=1/19 to furnish 0.23 g (71% yield) of the title compound as a yellow oil.

reactant | tert-butyl 4-tert-butyl-3-hydroxyphenyl carbonate | 1.0 mmol, 266 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)O)=O | C15H22O4
reactant | 2-methoxy-ethanol | 1.1 mmol, 83 μL | COCCO | C3H8O2
reactant | triphenylphosphine | 1.1 mmol, 275 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.1 mmol, 165 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-tert-butyl-3-(2-methoxyethoxy)phenyl carbonate | 0.23 g, 71% yield | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)OCCOC)=O | C18H28O5
